US07439395B2
10 ml of dry chloroform and 1.29 g (11.00 mmol) of N,N-dimethyltrimethylsilylamine are added to 2.45 g (9.93 mmol) of bis(dimethylamino)chlorocarbenium methylsulfate. The reaction mixture is stirred for 1 hour at room temperature, and all volatile compounds are subsequently removed under reduced pressure. The residue is dried for a further 1 hour under reduced pressure at 7.0 Pa and an oil-bath temperature of 50° C., giving 2.42 g of hexamethylguanidinium methylsulfate, corresponding to a yield of 95.5%.

reactant | N,N-dimethyltrimethylsilylamine | 11.00 mmol, 1.29 g | CN(C)[Si](C)(C)C | C5H15NSi
reactant | bis(dimethylamino)chlorocarbenium methylsulfate | 9.93 mmol, 2.45 g | COS(=O)(=O)[O-].CN(C)[C+](Cl)N(C)C
solvent | chloroform | 10 ml | C(Cl)(Cl)Cl | CHCl3
product | hexamethylguanidinium methylsulfate | 2.42 g, yield of 95.5% | CN(C(N(C)C)=[N+](C)C)C.COS(=O)(=O)[O-] | InChI=1S/C7H18N3.CH4O4S/c1-8(2)7(9(3)4)10(5)6;1-5-6(2,3)4/h1-6H3;1H3,(H,2,3,4)/q+1;/p-1
